US09056874B2
2-((5-Methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of tert-butyl 4-((5-cyano-1H-benzo[d]imidazol-2-yl)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (878 mg, 2.108 mmol) in THF (12 mL) and MeOH (12 mL) was added Cs2CO3 (3.4 g, 10.54 mmol). The mixture was stirred at 58° C. for 1 hour. The reaction mixture was cooled to room temperature, concentrated and purified by flash chromatography (DCM:EtOAc) to provide the title compound. 1H NMR (400 MHz, DICHLOROMETHANE-d2) δ ppm 8.24 (br. s., 1H) 7.86 (s, 1H) 7.59 (d, J=8.34 Hz, 1H) 7.46-7.54 (m, 1H) 7.30 (t, J=2.91 Hz, 1H) 6.87 (s, 1H) 6.71 (m, 1H) 4.60 (s, 2H) 4.03 (s, 3H) 2.53 (s, 3H). HRMS calcd. for C13H16N4O (M+H)+ 317.1397. found 317.1400.

reactant | tert-butyl 4-((5-cyano-1H-benzo[d]imidazol-2-yl)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 2.108 mmol, 878 mg | C(#N)C1=CC2=C(NC(=N2)CC2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)C=C1 | C24H24N4O3
reactant | Cs2CO3 | 10.54 mmol, 3.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | MeOH | 12 mL | CO | CH4O
product | 2-((5-Methoxy-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | COC=1C(=C2C=CNC2=C(C1)C)CC1=NC2=C(N1)C=CC(=C2)C#N | C19H16N4O
